US06194406B1
2-Methoxy-5-(1H-triazol-1-ylmethyl)benzoyl chloride
Combine 2-methoxy-5-(1H-triazol-1-ylmethyl)benzoic acid (0.22 g, 0.94 mmol) and dichloromethane (50 mL). Add dropwise oxalyl chloride (0.14 mL, 1.6 mmol) followed by dimethylformamide (5 drops). After 4 hours, evaporate in vacuo and dry to give the title compound.

reactant | 2-methoxy-5-(1H-triazol-1-ylmethyl)benzoic acid | 0.94 mmol, 0.22 g | COC1=C(C(=O)O)C=C(C=C1)CN1N=NC=C1 | C11H11N3O3
reactant | oxalyl chloride | 1.6 mmol, 0.14 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-Methoxy-5-(1H-triazol-1-ylmethyl)benzoyl chloride | COC1=C(C(=O)Cl)C=C(C=C1)CN1N=NC=C1 | C11H10ClN3O2
